US06255333B1
5-Amino-3-cyano-4-(cyclohex-1-enyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole
A solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl) pyrazole (1 g, the compound of Reference Example 1 from EP 295,117) and cyclohexanone (1.6 ml) in acetic acid (5 ml) was stirred and heated at 120° C. overnight under an atmosphere of nitrogen. The cooled reaction mixture was diluted with water and extracted with ethyl acetate and then ether. The combined organic extracts were washed with saturated aqueous sodium hydrogen carbonate solution, then water. After drying (MgSO4), evaporation gave the crude product which was purified by column chromatography on silica gel (50 g) eluted with dichloromethane:hexane (1:2), then dichloromethane:hexane (1:1). Combination and evaporation of appropriate fractions provided the title compound as a white solid m.p. 175-7° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl) pyrazole | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C11H5Cl2F3N4
reactant | cyclohexanone | 1.6 ml | C1(CCCCC1)=O | C6H10O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-Amino-3-cyano-4-(cyclohex-1-enyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=CCCCC1 | C17H13Cl2F3N4
